US05889032
N-[(3RS)-5-Benzyloxy-2,3-dihydro-2,2,4,6,7-pentamethylbenzofuran-3-ylmethyl]-(2S)-pyrrolidine-2-methanol
The title compound (1 g, 66%) was prepared as a pale yellow solid from (3RS)-5-benzyloxy-2,3-dihydro-2,2,4,6,7-pentamethylbenzofuran-3-ylmethyl methanesulfonate (1.49 g) and L-prolinol (1.5 g) by an analogous procedure to that described in preparation 1, mp 99°-101° C.

reactant | (3RS)-5-benzyloxy-2,3-dihydro-2,2,4,6,7-pentamethylbenzofuran-3-ylmethyl methanesulfonate | 1.49 g | CS(=O)(=O)OCC1C(OC2=C1C(=C(C(=C2C)C)OCC2=CC=CC=C2)C)(C)C | C22H28O5S
reactant | L-prolinol | 1.5 g | N1[C@H](CO)CCC1 | C5H11NO
product | N-[(3RS)-5-Benzyloxy-2,3-dihydro-2,2,4,6,7-pentamethylbenzofuran-3-ylmethyl]-(2S)-pyrrolidine-2-methanol | 1 g, 66% | C(C1=CC=CC=C1)OC=1C(=C(C2=C(C(C(O2)(C)C)CN2[C@@H](CCC2)CO)C1C)C)C | C26H35NO3
